US07388005B2
3.2 7,7-Difluoro-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one
To a suspension of 2.17 g (16.12 mmol) of 5,5-difluoro-1,4,5,6-tetrahydro-2-pyrimidinamine and 1.81 g (16.12 g) of potassium carbonate in 30 ml of ethanol was treated with 2.55 g (13.13 mmol) of ethyl 3-(4-pyrimidinyl)-3-oxopropionate. The reaction mixture was heated at reflux temperature during 32 h.

reactant | 5,5-difluoro-1,4,5,6-tetrahydro-2-pyrimidinamine | 16.12 mmol, 2.17 g | FC1(CN=C(NC1)N)F | C4H7F2N3
reactant | potassium carbonate | 1.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-(4-pyrimidinyl)-3-oxopropionate | 13.13 mmol, 2.55 g | N1=CN=C(C=C1)C(CC(=O)OCC)=O | C9H10N2O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 7,7-Difluoro-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | FC1(CNC=2N(C(C=C(N2)C2=NC=NC=C2)=O)C1)F | C11H9F2N5O
